US06255496B1
4-[N-dodecyl-N-2-[4-iodophenoxy]ethylamino]butanoic acid, ethyl ester
To a mixture of N-2-[4-iodophenoxy]ethyldodecylamine ( 4.0 g, 9.3 mmol) and sodium cyanoborohydride (1.45 g, 23 mmol) in methanol (80 ml) was added dropwise a solution of ethyl 4-oxobutyrate (Fournet, G. ; Balme, G.; Barieux, J. J. and Gore, J. Tetrahedron, 1988, 44, 5821) (2.4 g, 18 mmol) in methanol (20 ml) over a period of 10 min. The resulting mixture was stirred at 22° C. for 24 h, and then diluted with ethyl acetate (600 ml), washed with brine (3×250 ml). The aqueous phase was extracted with ethyl acetate (150 ml), and the combined organic layers were dried over sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel (Hexane/ethyl acetate 8:1 to 6:1) to afford the title compound (4.5 g, 89%) as a colorless oil.

reactant | N-2-[4-iodophenoxy]ethyldodecylamine | 9.3 mmol, 4.0 g | IC1=CC=C(OCCNCCCCCCCCCCCC)C=C1 | C20H34INO
reactant | sodium cyanoborohydride | 23 mmol, 1.45 g | C(#N)[BH3-].[Na+]
reactant | ethyl 4-oxobutyrate | 18 mmol, 2.4 g | O=CCCC(=O)OCC | C6H10O3
solvent | methanol | 80 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | 4-[N-dodecyl-N-2-[4-iodophenoxy]ethylamino]butanoic acid, ethyl ester | 4.5 g, 89% | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)I)CCCC(=O)OCC | C26H44INO3
